US06458802B1
[7-Amino-6-methoxy-2,3-dihydro-1,4-benzodioxin-2y]methyl 4-Methylbenzenesulfonate
To a mixture of 3.74 g (9.40 mmole) of [(2S)-7-nitro-6-methoxy-2,3-dihydro-1,4-benzodioxin-2y]methyl 4-methylbenzenesulfonate and 2.5 mL of 4 N isopropanolic HCl in 200 mL of ethyl acetate was added 0.45 g of 10% palladium on carbon and the mixture treated with 50 psi of hydrogen on a Parr apparatus for 15 hours. The catalyst was then removed by filtration through celite and the filtrate concentrated in vacuum to give 3.41 g of the (R)-enantiomer of the title compound as beige solid hydrochloride salt. 1H-NMR (DSMO-d6): broad singlet 9.8 δ (2 H); doublet 7.8 δ (2 H); doublet 7.45 δ (2 H); singlet 6.85 δ (1 H); singlet 6.75 δ (1 H); multiplet 4.2-4.45 δ (4 H); multiplet 4.0 δ (1 H); singlet 3.8 δ (3 H); singlet 2.5 δ (3 H).

reactant | [(2S)-7-nitro-6-methoxy-2,3-dihydro-1,4-benzodioxin-2y]methyl 4-methylbenzenesulfonate | 9.40 mmole, 3.74 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@@H]1COC2=C(O1)C=C(C(=C2)OC)[N+](=O)[O-] | C17H17NO8S
reactant | HCl | 4 N, 2.5 mL | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 0.45 g | [Pd] | Pd
product | [7-Amino-6-methoxy-2,3-dihydro-1,4-benzodioxin-2y]methyl 4-Methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCC1COC2=C(O1)C=C(C(=C2)OC)N | C17H19NO6S
